US08754079B2
4-[2-(4-Amino-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid propyl amide
A mixture of 0.1 g 4-[2-(4-tert-butoxycarbonylamino-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid, 39.689 μl chlor-trimethyl-propylenamine, 24 μl propylamine, 30.664 μl TEA and 5 ml DCM was stirred at rt overnight. The reaction mixture was washed successively with 0.1 M hydrochloric acid and 0.1 M sodium hydroxide solution, dried and filtered. The filtrate was concentrated. The residue was triturated with diethylether.

reactant | 4-[2-(4-tert-butoxycarbonylamino-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.1 g | C(C)(C)(C)OC(=O)NC1CCC(CC1)OC1=NC=CC=C1NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C24H29N5O5S
reactant | propylamine | 24 μl | C(CC)N | C3H9N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-Amino-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid propyl amide | C(CC)NC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC=CC2)OC2CCC(CC2)N)S1)C | C22H28N6O2S
